US07713993B2
(1) Synthesis of 2,2-dimethoxy-2-pyridin-4-ylethyl 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valerate
EDC (1.28 g), HOBT (902 mg) and IPEA (2.33 mL) were sequentially added to a solution of 5-chloro-2-{1-[3-methoxy-4-(4-methylimidazol-1-yl)phenyl]-(E)-methylidene}valeric acid trifluoroacetic acid salt (1 g) and β,β-dimethoxy-4-pyridineethaneamine dihydrochloride (740 mg) as a known compound (CAS #167897-36-1) in DMF (15 mL), and the reaction solution was stirred at room temperature for 12 hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer washed with brine and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane:ethyl acetate=1:2) to obtain 822 mg of the title compound. The property values of the compound are as follows.

reactant | HOBT | 902 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 2.33 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-chloro-2-{1-[3-methoxy-4-(4-methylimidazol-1-yl)phenyl]-(E)-methylidene}valeric acid trifluoroacetic acid salt | 1 g | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | β,β-dimethoxy-4-pyridineethaneamine dihydrochloride | 740 mg | Cl.Cl.COC(CN)(C1=CC=NC=C1)OC
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 1.28 g
product | 2,2-dimethoxy-2-pyridin-4-ylethyl 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valerate | 822 mg | ClCCC\C(\C(=O)OCC(C1=CC=NC=C1)(OC)OC)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C26H30ClN3O5
